US07838675B2
N-{2-[(2,3-Difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-(ethylamino)piperidine-1-sulfonamide
Ethylamine (0.56 mL of 2M solution in methanol) was added to a solution of acetic acid (0.025 mL) and N-{2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-oxopiperidine-1-sulfonamide (the product of example 148, step iii) (0.10 g) in DCM (4 mL). The solution was stirred at room temperature for 1 h then sodium triacetoxyborohydride (0.24 g) was added in portions. The mixture was stirred at room temperature overnight then 3M aqueous sodium hydroxide (6 mL) added to the residue. The mixture was shaken vigorously then acidified to pH 8 with 2M aqueous hydrochloric acid and extracted with ethyl acetate. The combined organic extracts were concentrated then methanol (1 mL) was added and the resulting suspension filtered. The solid was washed with water, methanol and ethyl acetate to afford the title compound as a very pale yellow powder. Yield: 52 mg

reactant | Ethylamine | 2M, 0.56 mL | C(C)N | C2H7N
reactant | N-{2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-oxopiperidine-1-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCC(CC2)=O)OC)C=CC=C1F | C17H18F2N4O4S2
reactant | sodium triacetoxyborohydride | 0.24 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 3M, 6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.025 mL | C(C)(=O)O | C2H4O2
product | N-{2-[(2,3-Difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-(ethylamino)piperidine-1-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCC(CC2)NCC)OC)C=CC=C1F | C19H25F2N5O3S2
